US08487108B2
To a mixture of (S)-tert-butyl 1-cyclohexyl-3-hydroxypentan-2-ylcarbamate (1.067 g, 3.74 mmol), catalytic amount of DMAP, and pyridine (0.651 g, 8.24 mmol) at 0° C. was added TsCl (0.856 g, 4.49 mmol) in CH2Cl2 (4 mL) over 2 min. The resulting solution was stirred at rt overnight. The reaction mixture was diluted with EtoAc, washed with 1 M HCl, sat. aq. NaHCO3, brine, dried over Na2SO4 and filtered. The filtrate was concentrated and purified by on silica gel chromatography to give (S)-2-(tert-butoxycarbonylamino)-1-cyclohexylpentan-3-yl 4-methylbenzenesulfonate as a white solid. MS ESI +ve m/z 462 (M+Na).

reactant | (S)-tert-butyl 1-cyclohexyl-3-hydroxypentan-2-ylcarbamate | 3.74 mmol, 1.067 g | C1(CCCCC1)C[C@@H](C(CC)O)NC(OC(C)(C)C)=O | C16H31NO3
reactant | pyridine | 8.24 mmol, 0.651 g | N1=CC=CC=C1 | C5H5N
reactant | TsCl | 4.49 mmol, 0.856 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(tert-butoxycarbonylamino)-1-cyclohexylpentan-3-yl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC([C@H](CC1CCCCC1)NC(=O)OC(C)(C)C)CC | C23H37NO5S
